US03941788
1.33 g. (0.01 moles) of 2-amino-benzimidazole are dissolved in 100 ml. of alcohol, and 0.4 g. (0.01 moles) of sodium hydroxide dissolved in 5 ml. of water are added to the mixture, followed by the addition of 0.92 g. (0.01 moles) of epichlorohydrine. The reaction mixture is boiled for about 3 hours. The reaction is completed when the inorganic salt ceases to separate. The separated sodium chloride is filtered off, washed with 2 × 5 ml. of alcohol, and the combined filtrate and wash is evaporated to dryness. 1.8 g. (80%) of white, crystalline 1,2,3,4-tetrahydro-3-hydroxy-pyrimido[1,2-a]benzimidazole are obtained; m.p.: 158°-160°C (heating rate: 4°C/min.).

reactant | 2-amino-benzimidazole | 0.01 moles | NC=1NC2=C(N1)C=CC=C2 | C7H7N3
reactant | sodium hydroxide | 0.01 moles | [OH-].[Na+]
reactant | epichlorohydrine | 0.01 moles | C(Cl)C1CO1 | C3H5ClO
solvent | water | O | H2O
product | 1,2,3,4-tetrahydro-3-hydroxy-pyrimido[1,2-a]benzimidazole | OC1CNC2=NC3=C(N2C1)C=CC=C3 | C10H11N3O
